US07629344B2
Step 1: Synthesis of 1-{2-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile
To a 2000 ml flask was charged with 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone (see U.S. application Ser. No. 11/474,132, published as U.S. 20070010524, 40 g, 78.1 mmol), dppf (3.86 g, 6.96 mmol), Zn(CN)2 (9.6 g, 81.6 mmol), DMF (360 ml) and H2O (20 ml). The resulting suspension was degassed using N2 for 5 min, followed by addition of Pd2(dba)3 (4.24 g, 4.64 mmol). The reaction mixture was heated under N2 at 90° C. for 2 h (monitor by TLC and LC-MS). After cooling to room temperature, diluted with EtOAc (1500 ml), filtered to remove the precipitate and washed with H2O (1000×2 ml), saturated EDTA.4Na (800 ml×2), brine and dried over Na2SO4. After evaporation of the solvent, ether (150 mL) was added and stirred for 2 h. The resulting solid was filtered to give the desired product 30 g (93%) as light yellow powder. Recrystallization from refluxing CH3CN (160 mL) afforded 26 g (80%) light yellow crystals: mp 183-185° C.; Rt=2.38 min; MS (ES) M+H expect 411.1, found 41.1.

reactant | 1-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)I)=O)OC | C19H19ClIN5O2
reactant | DMF | 360 ml | CN(C)C=O | C3H7NO
reactant | H2O | 20 ml | O | H2O
solvent | EtOAc | 1500 ml | CCOC(=O)C | C4H8O2
catalyst | dppf | 6.96 mmol, 3.86 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 81.6 mmol, 9.6 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 4.64 mmol, 4.24 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{2-[4-(4-Chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-1H-pyrazolo[3,4-b]pyridine-3-carbonitrile | 30 g, 93% | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)C#N)=O)OC | C20H19ClN6O2
